US07087626B2
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid cyclopentylamide
A mixture of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, (53 mg, 0.30 mmol), HOBT, (24 mg, 0.28 mmol), cyclopentylamine (0.03 mL, 0.30 mmol), and 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid (90 mg, 0.25 mmol) in dichloromethane (1 mL) is stirred room temperature for 18 h. The mixture is concentrated in vacuo and the residue chromatographed on SiO2 to yield the title compound, 31 mg (31%,) as a white solid.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.30 mmol, 53 mg | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.28 mmol, 24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopentylamine | 0.30 mmol, 0.03 mL | C1(CCCC1)N | C5H11N
reactant | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid | 0.25 mmol, 90 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)C(=O)O | C21H16N4O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-7-carboxylic acid cyclopentylamide | C1(CCCC1)NC(=O)C1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C26H25N5O
